US07488844B2
(v) (2S)-3-[4-(2-{Butyl[2-fluoro-4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]-2-ethoxypropanoic acid
To a solution of ethyl(2S)-3-[4-(2-{butyl[2-fluoro-4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]-2-ethoxypropanoate (0.748 g, 1.42 mmol) in acetonitrile (70 mL) was added aqueous 0.10 M LiOH (35 mL) and the reaction mixture was stirred at room temperature overnight. After neutralisation with 5% HCl, the solvent volume was reduced in vacuo and the remaining aqueous phase was acidified with 5% HCl and extracted with ethyl acetate (3×100 mL). The combined organic phase was washed with brine (100 mL), dried over Na2SO4, and concentrated in vacuo to afford 0.688 g (97%) of a pale yellow oil.

reactant | ethyl(2S)-3-[4-(2-{butyl[2-fluoro-4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]-2-ethoxypropanoate | 1.42 mmol, 0.748 g | C(CCC)N(C(COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)=O)CC1=C(C=C(C=C1)C(F)(F)F)F | C27H33F4NO5
reactant | LiOH | 0.10 M, 35 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | (2S)-3-[4-(2-{Butyl[2-fluoro-4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]-2-ethoxypropanoic acid | 0.688 g, 97% | C(CCC)N(C(COC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC)=O)CC1=C(C=C(C=C1)C(F)(F)F)F | C25H29F4NO5
